US05935952
In 308 ml of dimethyl sulfoxide was dissolved 61.7 g of ethyl 2,4,5-trifluoro-3-methylbenzoate, and 42.3 g of sodium azide was added to the solution, after which the resulting mixture was stirred at 55° C. for 14 hours. The reaction mixture was cooled to room temperature and thereafter added to a mixed solvent of 500 ml of ethyl acetate and 1200 ml of water. The organic layer formed was separated, washed with water and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure to obtain 65.3 g of pale yellow, oily ethyl 4-azido-2,5-difluoro-3-methylbenzoate.

reactant | ethyl 2,4,5-trifluoro-3-methylbenzoate | 61.7 g | FC1=C(C(=O)OCC)C=C(C(=C1C)F)F | C10H9F3O2
reactant | sodium azide | 42.3 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 1200 ml | O | H2O
solvent | dimethyl sulfoxide | 308 ml | CS(=O)C | C2H6OS
product | ethyl 4-azido-2,5-difluoro-3-methylbenzoate | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC)C=C1F)F)C | C10H9F2N3O2
